US07432258B2
b) Bis(1,1-dimethylethyl) [1-(4-biphenylyl)ethyl]imidodicarbonate
A mixture of 1,1-dimethylethyl [1-(4-bromophenyl)ethyl]carbamate (7.09 g, 23.9 mmol), di-tert-butyl dicarbonate (7.82 g, 35.9 mmol) and DMAP (1.0 g) was stirred at 80° C. for 2.5 h. The product was isolated by silica gel chromatography (330 g Redisep column, silica, 40 um, 60 Å, 100 mL/min, A: hexane, B: ethyl acetate, B: 10% for 1 min, 50% for 30 min, detection at 214 nm) gave 1.29 g (13.6%) as a clear oil. 1H NMR(CDCl3): delta 7.36-7.62 (m, 9H, arom), 5.59 (q, J=6.88 Hz, 1H), 1.76 (d, J=7.05 Hz, 3H), 1.41 (s, 18H)

reactant | 1,1-dimethylethyl [1-(4-bromophenyl)ethyl]carbamate | 23.9 mmol, 7.09 g | BrC1=CC=C(C=C1)C(C)NC(OC(C)(C)C)=O | C13H18BrNO2
reactant | di-tert-butyl dicarbonate | 35.9 mmol, 7.82 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hexane | CCCCCC | C6H14
catalyst | DMAP | 1.0 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Bis(1,1-dimethylethyl) [1-(4-biphenylyl)ethyl]imidodicarbonate | C1(=CC=C(C=C1)C(C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H31NO4
